US07645789B2
1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (43 mg, 0.19 mmol) and tert-butyl 4-(5-amino-1H-indol-2-yl)piperidine-1-carboxylate (60 mg, 0.19 mmol) were dissolved in dichloromethane (1 mL) containing a magnetic stir bar and triethylamine (0.056 mL, 0.40 mmol). The resulting solution was allowed to stir for two days at room temperature. The crude product was then evaporated to dryness, dissolved in a minimum of N,N-dimethylformamide, and then purified by preparative HPLC using a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield tert-butyl 4-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)piperidine-1-carboxylate. ESI-MS m/z calc. 503.2, found 504.5. (M+1)+. Retention time of 1.99 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 0.19 mmol, 43 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)Cl | C11H9ClO3
reactant | tert-butyl 4-(5-amino-1H-indol-2-yl)piperidine-1-carboxylate | 0.19 mmol, 60 mg | NC=1C=C2C=C(NC2=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H25N3O2
reactant | triethylamine | 0.40 mmol, 0.056 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)piperidine-1-carboxylate | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C2CCN(CC2)C(=O)OC(C)(C)C | C29H33N3O5
